US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid ((S)-1-hydroxymethyl-1,2-dimethyl-propyl)-amide
The title compound was synthesized in analogy to Example 15, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g; 100 mg, 0.42 mmol) and (2S)-2-amino-2,3-dimethyl-1-butanol (CAN 956102-64-0, 107.06 mg, 0.64 mmol) as starting materials, and isolated (25 mg, 16.04%) as off white sticky solid, LC-MS (UV peak area, ESI) 90.02%, 334.4 (M+H).

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.42 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | (2S)-2-amino-2,3-dimethyl-1-butanol | 0.64 mmol, 107.06 mg | N[C@](CO)(C(C)C)C | C6H15NO
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid ((S)-1-hydroxymethyl-1,2-dimethyl-propyl)-amide | OC[C@@](C(C)C)(C)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C18H27N3O3
